US07576135B2
(1S,3R,6R)-7-oxabicyclo[4.1.0]heptane-3-carboxylic acid benzyl ester
In a manner similar to that employed in Referential Example 99, (1R)-3-cyclohexene-1-carboxylic acid benzyl ester was prepared from (1R)-3-cyclohexene-1-carboxylic acid (J. Am. Chem. Soc, vol. 100, p. 5199 (1978)).

reactant | (1R)-3-cyclohexene-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@H]1CC=CCC1 | C14H16O2
reactant | (1R)-3-cyclohexene-1-carboxylic acid | [C@@H]1(CC=CCC1)C(=O)O | C7H10O2
product | (1S,3R,6R)-7-oxabicyclo[4.1.0]heptane-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@H]1C[C@@H]2O[C@@H]2CC1 | C14H16O3
